US06096743
A mixture of 6.52 g of N-(2-nitro-5-fluorophenyl)glycine ethyl ester, 100 ml of THF, 50 ml of methanol and 500 mg of 10% palladium-carbon was stirred in a hydrogen gas atmosphere, whereby the nitro group was reduced. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. To the resulting residue, 200 ml of chloroform and 7.54 ml of triethylamine were added to dissolve the former in the latter. While stirring, a 30 ml chloroform solution of 7.35 g of ethyl chloroglyoxylate was added dropwise to the resulting mixture under an argon gas stream under ice cooling. After the dropwise addition, stirring was carried out for 1 hour at room temperature, followed by dilution with chloroform. The diluted solution was washed successively with water, a saturated aqueous solution of sodium bicarbonate, a saturated aqueous solution of ammonium chloride and brine, and was dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. To the resulting residue, 150 ml of ethanol and 1 ml of concentrated hydrochloric acid were added, followed by heating under reflux for 1 hour. After cooling, the resulting crystals were collected by filtration and dried under reduced pressure to give 5.80 g (80%) of ethyl 2-(7-fluoro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)acetate.

reactant | N-(2-nitro-5-fluorophenyl)glycine ethyl ester | 6.52 g | C(C)OC(CNC1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C10H11FN2O4
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
reactant | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | ethyl 2-(7-fluoro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)acetate | 5.80 g, 80% | FC1=CC=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O | C12H11FN2O4
